US05872118
A solution of 3-(4-fluorophenyl)-3-methylbutyryl chloride (19.0 g, 0.0815 mol) in dichloromethane (100 ml) was added dropwise over 2.5 h to a stirring mixture of aluminum chloride (13.57 g, 0.102 mol, Aldrich) in dichloromethane (200 ml) while protected from moisture by a nitrogen atmosphere. After stirring 18 h at 25° C., the reaction solution was poured over ice (400 g) and the resulting solution was extracted with dichloromethane (2×200 ml). The dichloromethane layers were combined, washed with deionized water (50 ml), and concentrated by spin evaporation in vacuo. The residue was dissolved in ethyl acetate and washed through a pad of silica gel. The pad was washed with additional ethyl acetate. Removal of the volatiles from the combined washes by spin evaporation in vacuo gave 15.2 g (99%) of 6-fluoro-3,3-dimethyl-1-indanone as a light yellow oil which crystallized on standing, m.p., 57°-62° C.;

reactant | 3-(4-fluorophenyl)-3-methylbutyryl chloride | 0.0815 mol, 19.0 g | FC1=CC=C(C=C1)C(CC(=O)Cl)(C)C | C11H12ClFO
reactant | aluminum chloride | 0.102 mol, 13.57 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 6-fluoro-3,3-dimethyl-1-indanone | 15.2 g, 99% | FC1=CC=C2C(CC(C2=C1)=O)(C)C | C11H11FO
